US06953863B2
1.0 AIP/0.85 Isooctyl Alcohol/1.075 Hexylene glycol
With the apparatus of Example 1, 174.2 grams aluminum tri-isopropoxide was charged, followed by 94.4 grams of isooctyl acohol and 108.4 grams of hexylene glycol. The mixture was heated with agitation to 90° C. where isopropyl alcohol began distilling off. A high boiling petroleum solvent was added and the material was heated to 125° C. where vacuum was applied to remove the remaining isopropyl alcohol. The material was cooled and adjusted to a final active solids content of 48% by addition of more petroleum solvent.

reactant | aluminum tri-isopropoxide | 174.2 grams | CC([O-])C.CC([O-])C.CC([O-])C.[Al+3]
reactant | hexylene glycol | 108.4 grams | C(CCCCCO)O | C6H14O2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | Isooctyl Alcohol | C(CCCCC(C)C)O | C8H18O
